US05304657
1.0 g of 5,6-dihydro-4H-cyclopenta[b]thiophene-2-carboxylic acid was reacted with 4 ml of thionyl chloride for 3.5 hours under reflux. Then, excess thionyl chloride was distilled off under reduced pressure to obtain 5,6-dihydro-4H-cyclopenta[b]thiophene-2-carbonyl chloride.

reactant | 5,6-dihydro-4H-cyclopenta[b]thiophene-2-carboxylic acid | 1.0 g | S1C2=C(C=C1C(=O)O)CCC2 | C8H8O2S
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | 5,6-dihydro-4H-cyclopenta[b]thiophene-2-carbonyl chloride | S1C2=C(C=C1C(=O)Cl)CCC2 | C8H7ClOS
